US04705807
(a) cis-o-Chlorocinnamonitrile
o-Chlorobenzalcyanoacetic acid (40 g; 0.193 m) was intimately mixed with copper powder (3 g) and cuprous oxide (1 g) and heated in vacuo at a temperature of 240° C. with vigorous evolution of carbon dioxide. The distillate was a pale yellow oil which was shown to contain 71% cis-nitrile by NMR assay. Fractional distillation of the mixture was carried out collecting early fractions containing pure cis-isomer, b.p. 90°-92° C. at 1.2 mm/Hg.

reactant | o-Chlorobenzalcyanoacetic acid | 40 g | ClC1=C(C=C(C(=O)O)C#N)C=CC=C1 | C10H6ClNO2
reactant | carbon dioxide | C(=O)=O | CO2
catalyst | copper | 3 g | [Cu] | Cu
product | cis-o-Chlorocinnamonitrile | ClC1=C(\C=C/C#N)C=CC=C1 | C9H6ClN
